US07871998B2
N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl-L-phenylalanine
Methyl N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl-L-phenylalaninate (20 mg, 0.029 mmol) was dissolved in 1.6 ml MeOH and 0.2 ml H2O. Et3N (0.2 ml, 1.44 mmol) was added and the mixture was stirred overnight. The mixture was heated to 80° C. for 7 h. The mixture was purified by preparative HPLC using a C8 column (25×300 mm). A gradient from 20% to 40% MeCN in 0.1 M ammonium acetate was used as mobile phase. The product fraction was concentrated and lyophilized to yield 7 mg (36%). M/z: 688.

reactant | Methyl N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl-L-phenylalaninate | 0.029 mmol, 20 mg | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(=O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)NCC(=O)N[C@@H](CC2=CC=CC=C2)C(=O)OC)C=C1 | C37H33F2N3O7S
reactant | Et3N | 1.44 mmol, 0.2 ml | CCN(CC)CC | C6H15N
solvent | MeOH | 1.6 ml | CO | CH4O
solvent | H2O | 0.2 ml | O | H2O
product | N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl-L-phenylalanine | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(=O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)NCC(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)C=C1 | C36H31F2N3O7S
